US06881733B1
2-(2-bromo-4-fluorophenoxy)propionaldehyde
A solution of 19.4 gm (66.7 mMol) ethyl 2-(2-bromo-4-fluorophenoxy)propionate in 400 mL toluene was cooled to −78° C. at which point 100 mL (100 mMol) diisobutylaluminum hydride (1 M in toluene) were added dropwise over 35 minutes. The reaction mixture was stirred at −78° C. for an additional 20 minutes after the addition was complete and then the reaction was quenched by the addition of methanol. The reaction mixture was warmed to room temperature and then treated with saturated aqueous sodium potassium carbonate. The mixture was stirred for 30 minutes and was then extracted well with ethyl acetate. The organic phases were combined, dried over sodium sulfate, and concentrated under reduced pressure to provide 16.9 gm of crude desired compound.

reactant | ethyl 2-(2-bromo-4-fluorophenoxy)propionate | 66.7 mMol, 19.4 gm | BrC1=C(OC(C(=O)OCC)C)C=CC(=C1)F | C11H12BrFO3
reactant | diisobutylaluminum hydride | 100 mMol, 1 M, 100 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-bromo-4-fluorophenoxy)propionaldehyde | 16.9 gm | BrC1=C(OC(C=O)C)C=CC(=C1)F | C9H8BrFO2
